US07842713B2
N-(1-Methyl-1H-pyrazol-3-yl)-4-[4-(methylsulfonyl)phenoxy]-2-[(2-oxopyrrolidin-1-yl)methyl]-1-benzofuran-6-carboxamide
To a solution of 3-amino-1-methylpyrazole (106 mg, 1.09 mmol) in DCE (10 mL) at 0° C. was added Al(CH3)2Cl (1.09 mL, 1M in hexanes) drop-wise. After removal of the ice-bath, the mixture was stirred for 30 min at room temperature. Ethyl 4-(4-(methylsulfonyl)phenoxy)-2-((2-oxopyrrolidin-1-yl)methyl)benzofuran-6-carboxylate (50 mg, 0.11 mmol) was added and the stirring was continued for another 14 h. The reaction was quenched with potassium sodium tartrate tetrahydrate (20% w/w) cautiously. The product was extracted with CHCl3, washed with brine and dried over MgSO4. The product was purified by reverse phase HPLC to give the title compound (22 mg, 47%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.97-2.13 (m, 2 H) 2.44 (t, J=8.01 Hz, 2 H) 3.08 (s, 3 H) 3.46 (t, J=6.97 Hz, 2 H) 3.81 (s, 3 H) 4.60 (s, 2 H) 6.54 (s, 1 H) 6.79 (d, J=2.26 Hz, 1 H) 7.09-7.17 (m, 2 H) 7.29 (d, J=2.26 Hz, 1 H) 7.44 (s, 1 H) 7.81-7.98 (m, 3 H) 8.54 (s, 1 H). LCMS m/z 509.0 (M+H)+.

reactant | 3-amino-1-methylpyrazole | 1.09 mmol, 106 mg | NC1=NN(C=C1)C | C4H7N3
reactant | Al(CH3)2Cl | 1M, 1.09 mL | [Al](C)(C)Cl
reactant | Ethyl 4-(4-(methylsulfonyl)phenoxy)-2-((2-oxopyrrolidin-1-yl)methyl)benzofuran-6-carboxylate | 0.11 mmol, 50 mg | CS(=O)(=O)C1=CC=C(OC2=CC(=CC3=C2C=C(O3)CN3C(CCC3)=O)C(=O)OCC)C=C1 | C23H23NO7S
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | N-(1-Methyl-1H-pyrazol-3-yl)-4-[4-(methylsulfonyl)phenoxy]-2-[(2-oxopyrrolidin-1-yl)methyl]-1-benzofuran-6-carboxamide | 22 mg, 47% | CN1N=C(C=C1)NC(=O)C1=CC2=C(C=C(O2)CN2C(CCC2)=O)C(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C25H24N4O6S
